US08877760B2
The crude tert-butyl (1S,2R)-2-(5-cyano-6-(3-(pyrimidin-2-yl)phenylamino)pyrazin-2-ylamino)cyclohexylcarbamate was dissolved in TFA (3 mL). After being stirred at room temperature for 1 h, the mixture was concentrated in vacuo. The residue was purified by HPLC to give 5-((1R,2S)-2-aminocyclohexylamino)-3-(3-(pyrimidin-2-yl)phenylamino)pyrazine-2-carbonitrile (60 mg).

reactant | tert-butyl (1S,2R)-2-(5-cyano-6-(3-(pyrimidin-2-yl)phenylamino)pyrazin-2-ylamino)cyclohexylcarbamate | C(#N)C=1N=CC(=NC1NC1=CC(=CC=C1)C1=NC=CC=N1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C26H30N8O2
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-((1R,2S)-2-aminocyclohexylamino)-3-(3-(pyrimidin-2-yl)phenylamino)pyrazine-2-carbonitrile | 60 mg | N[C@@H]1[C@@H](CCCC1)NC=1N=C(C(=NC1)C#N)NC1=CC(=CC=C1)C1=NC=CC=N1 | C21H22N8
